US06995184B2
6,7-Dichloro-2-methyl-1H-indole.
1 600 ml of 0.5M isopropenylmagnesium bromide in THF are introduced under nitrogen and are cooled to −20° C., 51.2 g of 2,3-dichloronitrobenzene in 250 ml of anhydrous THF are added and the mixture is left stirring for I hour at −20° C. The reaction medium is poured at −20° C. onto 1 liter of saturated NH4Cl solution, the mixture is diluted with Et2O and then the aqueous phase is washed twice with Et2O. The organic phases are combined and are concentrated to dryness. The residue is extracted with DCM and the organic phase is washed twice with water and then with a saturated NaCl solution. It is dried and then evaporated and the residue is chromatographed on [lacuna] a hexane/AcOEt (95/5, v/v) mixture. 24.27 g of the expected compound are obtained, M.p.=70–71° C.

reactant | isopropenylmagnesium bromide | 0.5M | C(=C)(C)[Mg]Br
reactant | 2,3-dichloronitrobenzene | 51.2 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | NH4Cl | 1 liter | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 6,7-Dichloro-2-methyl-1H-indole | 24.27 g | ClC1=CC=C2C=C(NC2=C1Cl)C | C9H7Cl2N
